US07678795B2
3-(2-Methoxy-phenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[c]pyridazine
light yellow gum. MS (ESI): 255.2 (MH+). Prepared from cycloheptane-1,2-dione, [2-(2-Methoxy-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | cycloheptane-1,2-dione | C1(C(CCCCC1)=O)=O | C7H10O2
reactant | [2-(2-Methoxy-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=CC=C1)OC | C11H15O5P
reactant | hydrazine monohydrate | O.NN
product | 3-(2-Methoxy-phenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[c]pyridazine | COC1=C(C=CC=C1)C1=CC2=C(N=N1)CCCCC2 | C16H18N2O
